US04250184
3-[(4-Hydroxypiperidino)methyl]-3-buten-2-one
3-[(4-Hydroxypiperidino)methyl]-4-(4-(hydroxypiperidino)butan-2-one (1 g.) was dissolved in 8 ml. of ethyl alcohol and added to a cooled solution of oxalic acid anhydrous (0.9 g.) in 5 ml. of ethyl alcohol. After standing at 0° C. for five minutes, the resultant precipitate was filtered. The filtrate was stripped of solvent under reduced pressure and the residual oil taken up in a small volume of water, saturated with potassium carbonate and then extracted with ether. The ether solution was dried over anhydrous sodium sulphate, filtered and the filtrate stripped of ether. The residual oil, approximately 0.1 g., was characterized including a proton nuclear magnetic resonance spectrum in deuterated dimethylsulfoxide. There were two vinylic protons, at 5.9 and 6.1 ppm downfield from the reference tetramethylsilane.

reactant | 4-(hydroxypiperidino)butan-2-one | 1 g | OC1N(CCCC1)CCC(C)=O | C9H17NO2
reactant | oxalic acid anhydrous | 0.9 g | C(=O)(C(=O)O)O | C2H2O4
reactant | ethyl alcohol | C(C)O | C2H6O
product | 3-[(4-Hydroxypiperidino)methyl]-3-buten-2-one | OC1CCN(CC1)CC(C(C)=O)=C | C10H17NO2
